US04387106
The intermediate is then reacted with a secondary amine in an aprotic solvent such as toluene at temperatures from room temperature or below up to the boiling point of the solvent. An example of this process is the reaction of phosgene with 3-chloroaniline to yield the intermediate N-(3-chlorophenyl)carbamyl chloride which is then reacted with dibenzylamine to yield 1,1-dibenzyl-3-(3-chlorophenyl)urea.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(3-chlorophenyl)carbamyl chloride | ClC=1C=C(C=CC1)NC(=O)Cl | C7H5Cl2NO
